US05180723
A stirred solution of N-tert-butoxycarbonyl-2-aminopentan-1-ol (2.0 g, 9.2 mmol) in dry DCM (30 ml) at 0° C. was treated with tetrabromomethane (6.1 g, 18.4 mmol) followed by triphenylphosphine (4.84 g, 18.4 mmol). The clear reaction mixture immediately changed to yellow. After 30 min. the solvent was removed under reduced pressure and the residue was purified by column chromatography (flash silica gel; 0-40% ethyl acetate in hexane) to give N-tert-butoxycarbonyl-1-bromo-2-amino-4-methylpentane (1.76 g, 68%) as a colourless oil.

reactant | N-tert-butoxycarbonyl-2-aminopentan-1-ol | 9.2 mmol, 2.0 g | C(C)(C)(C)OC(=O)NC(CO)CCC | C10H21NO3
reactant | tetrabromomethane | 18.4 mmol, 6.1 g | BrC(Br)(Br)Br | CBr4
reactant | triphenylphosphine | 18.4 mmol, 4.84 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | DCM | 30 ml | C(Cl)Cl | CH2Cl2
product | N-tert-butoxycarbonyl-1-bromo-2-amino-4-methylpentane | 1.76 g, 68% | C(C)(C)(C)OC(=O)NC(CBr)CC(C)C | C11H22BrNO2
